US04977175
A solution of 3.39 g of methyl 1-methylbenzimidazole-6-carboxylate sulfate in 70 ml of acetic acid was catalytically hydrogenated at 90° C. for 6 hours under 60 atms using 1.9 g of 5% palladium carbon as a catalyst. Ater the catalyst was filtered off and the reaction solution was concentrated under reduced pressure, ethyl acetate was added to the concentrate followed by extraction with 0.5 N HCl. The aqueous phase was rendered alkaline with potassium carbonate and extracted with chloroform. The chloroform phase was washed with saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2.10 g (92%) of methyl 1-methyl-4,5,6,7-tetrahydrobenzimidazole-6-carboxylate.

reactant | methyl 1-methylbenzimidazole-6-carboxylate sulfate | 3.39 g | S(=O)(=O)(O)O.CN1C=NC2=C1C=C(C=C2)C(=O)OC
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 1.9 g | [C].[Pd]
product | methyl 1-methyl-4,5,6,7-tetrahydrobenzimidazole-6-carboxylate | 2.10 g, 92% | CN1C=NC2=C1CC(CC2)C(=O)OC | C10H14N2O2
